US04451681
2.43 grams of 2,5-dinitro-3-methylbenzoic acid was dissolved in 21.5 grams of oleum (20% SO3, 80% H2SO4). While the solution is stirred with the temperature maintained at 5°-10° C., 0.84 grams of powdered sodium azide was added cautiously in portions of less than 0.1 g over one hour. Rapid addition of the sodium azide was avoided to prevent any explosion from occurring. Stirring was continued for one hour at 0°-10° C. (gas evolution occurs), 10°-30° C. for two hours and 30°-60° C. for three hours. The resulting dark mixture was then poured over 200 ml of crushed ice to yield a yellow-orange precipitate. The mixture was filtered, washed with water and dried to give 2.02 g of 3-amino-2,5-dinitrotoluene (m.p. 125°-127° C.). Recrystallization from 95% ethanol gave rust colored flakes.

reactant | 2,5-dinitro-3-methylbenzoic acid | 2.43 grams | [N+](=O)([O-])C1=C(C(=O)O)C=C(C=C1C)[N+](=O)[O-] | C8H6N2O6
reactant | sodium azide | 0.84 grams | [N-]=[N+]=[N-].[Na+]
solvent | oleum | 21.5 grams | OS(=O)(=O)O.O=S(=O)=O
product | 3-amino-2,5-dinitrotoluene | 2.02 g | NC=1C(=C(C=C(C1)[N+](=O)[O-])C)[N+](=O)[O-] | C7H7N3O4
